US09422236B2
Step-5 Preparation of (1R,2S)-2-Amino-3-fluoro-1-(4-(methyl-N-(2,2,2-trifluoroacetyl)sulfonimidoyl)phenyl)-propan-1-ol
To a solution of (4S,5R)-tert-butyl 4-(fluoromethyl)-2,2-dimethyl-5-(4-(methyl-N-(2,2,2-trifluoroacetyl)sulfonimidoyl)phenyl)oxazolidine-3-carboxylate (500 mg, 1.168 mmol) in DCM (20 mL) is added Trifluoroacetic acid (2.0 mL). Reaction mixture is allowed to stir at room temperature for 2 h. Excess of Trifluoroacetic acid and DCM is evaporated in vacuo, stripped with toluene followed by washing with n-pentane and diethyl ether to afford crude title compound (426 mg, TFA salt) as faint yellow sticky mass which is used as such for next step.

reactant | (4S,5R)-tert-butyl 4-(fluoromethyl)-2,2-dimethyl-5-(4-(methyl-N-(2,2,2-trifluoroacetyl)sulfonimidoyl)phenyl)oxazolidine-3-carboxylate | 1.168 mmol, 500 mg | FC[C@H]1N(C(O[C@@H]1C1=CC=C(C=C1)S(=O)(=NC(C(F)(F)F)=O)C)(C)C)C(=O)OC(C)(C)C | C20H26F4N2O5S
reactant | Trifluoroacetic acid | 2.0 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | (1R,2S)-2-Amino-3-fluoro-1-(4-(methyl-N-(2,2,2-trifluoroacetyl)sulfonimidoyl)phenyl)-propan-1-ol | 426 mg | N[C@@H]([C@H](O)C1=CC=C(C=C1)S(=O)(=NC(C(F)(F)F)=O)C)CF | C12H14F4N2O3S
